US09447030B2
To a solution of tert-butyl (2-(2-amino-2-oxoacetamido)-4-(thiophen-2-yl)phenyl)carbamate (0.1 g, 0.28 mmol) in DCM (3 mL) was added TFA (1 mL, 13 mmol) at 0° C. The reaction was warmed to room temperature and stirred for 2 h. The reaction was then concentrated under reduced pressure. The residue was basified with a saturated aqueous solution of Na2CO3. The obtained solid was filtered, washed with water and ether then dried to afford N1-(2-amino-5-(thiophen-2-yl)phenyl)oxalamide (40 mg, 55% yield). ESI+ MS: m/z 262 ([M+H]+), 1H NMR (500 MHz, d6-DMSO): δ 9.89 (s, 1H), 8.24 (s, 1H), 7.94 (s, 1H), 7.59 (d, J=2.0 Hz, 1H), 7.6 (d, J=5 Hz, 1H), 7.29-7.26 (m, 1H), 7.23 (d, J=4.0 Hz, 1H), 7.05 (t, J=4.0 Hz, 1H), 6.80 (d, J=9.0 Hz, 1H), 5.16 (s, 2H).

reactant | tert-butyl (2-(2-amino-2-oxoacetamido)-4-(thiophen-2-yl)phenyl)carbamate | 0.28 mmol, 0.1 g | NC(C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O)=O | C17H19N3O4S
reactant | TFA | 13 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N1-(2-amino-5-(thiophen-2-yl)phenyl)oxalamide | 40 mg, 55% yield | NC1=C(C=C(C=C1)C=1SC=CC1)NC(C(=O)N)=O | C12H11N3O2S
